US06812226B2
(i) 1,1-Dimethylethyl 4-(2-oxo-1,3-benzoxazol-3(2H)-yl)piperidine-1-carboxylate
2-Benzoxazolinone (1 g) was added to a cooled solution of triphenylphoshine (2.13 g) and diethylazodicarboxylate (1.28 ml) in dry tetrahydrofuran (20 ml). After 10 min at 0° C., N-(t-butoxy)-4-hydroxypiperidine (1.63 g) (Tetrahedron Letters, 1996, 6439-6442) was added portionwise. The reaction mixture was stirred at room temperature for 16 h. The solution was diluted with water, extracted with ethyl acetate, dried and evaporated under reduced pressure. Purification was by chromatography eluting with (1:2) diethylether/isohexane. Yield 0.5 g as an oil.

reactant | 2-Benzoxazolinone | 1 g | O1C(NC2=C1C=CC=C2)=O | C7H5NO2
reactant | triphenylphoshine | 2.13 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 1.28 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | N-(t-butoxy)-4-hydroxypiperidine | 1.63 g | C(C)(C)(C)ON1CCC(CC1)O | C9H19NO2
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1,1-Dimethylethyl 4-(2-oxo-1,3-benzoxazol-3(2H)-yl)piperidine-1-carboxylate | O=C1OC2=C(N1C1CCN(CC1)C(=O)OC(C)(C)C)C=CC=C2 | C17H22N2O4
